US09388173B2
Step 2: 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetic acid
To a solution of ethyl 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetate (1.25 g, 5.23 mmol) in EtOH/H2O (100 mL) was added NaOH (1.1 g, 26.15 mmol). The reaction mixture was stirred at room temperature until TLC showed completion. The reaction mixture was concentrated and the residue taken up in water (15 mL) and treated with 2M HCl until pH=3 then extracted with EA (2×25 ml). The combined organic layers were washed with brine (100 mL), dried over Na2SO4 and concentrated to yield the title product (600 mg, Yield 50%). The crude product was used in next step without further purification. LCMS (m/z): 212.0 (M+1).

reactant | ethyl 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetate | 5.23 mmol, 1.25 g | ClC=1N=CC2=C(N1)N(C=C2)CC(=O)OCC | C10H10ClN3O2
reactant | NaOH | 26.15 mmol, 1.1 g | [OH-].[Na+]
solvent | EtOH H2O | 100 mL | CCO.O
product | 2-(2-chloro-7H-pyrrolo[2,3-d]pyrimidin-7-yl)acetic acid | 600 mg, Yield 50% | ClC=1N=CC2=C(N1)N(C=C2)CC(=O)O | C8H6ClN3O2
